US06384065B1
To 20 ml of toluene were added 1.90 g of 4-(3-methylbutylidene)-1-cyclohexanone and 2.05 g of benzyl 3-aminopropionate, and the mixture was stirred at ambient temperature for one hour. Then, 1.72 g of mercaptosuccinic acid was added, and the resulting mixture was heated under reflux for one hour under the condition of azeotropic dehydration by means of Dean Stark. The reaction mixture was added to a mixture of ice water and ethyl acetate, pH was adjusted to 2.0 with 2 mol/L hydrochloric acid, and the organic layer was separated. The organic layer was washed successively with water and saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue thus obtained was purified by column chromatography [eluent: chloroform:ethanol=50:1] to obtain 3.10 g of 2-[4-[3-(benzyloxy)-3-oxopropyl]-8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-2-yl]-acetic acid as a light yellow oily product.

reactant | 4-(3-methylbutylidene)-1-cyclohexanone | 1.90 g | CC(CC=C1CCC(CC1)=O)C | C11H18O
reactant | benzyl 3-aminopropionate | 2.05 g | NCCC(=O)OCC1=CC=CC=C1 | C10H13NO2
reactant | mercaptosuccinic acid | 1.72 g | SC(C(=O)O)CC(=O)O | C4H6O4S
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-[3-(benzyloxy)-3-oxopropyl]-8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-2-yl]-acetic acid | 3.10 g | C(C1=CC=CC=C1)OC(CCN1C(C(SC12CCC(CC2)=CCC(C)C)CC(=O)O)=O)=O | C25H33NO5S
